US07101903B2
Ethyl 1-(4-methylbenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indole-2-carboxylate
A mixture of ethyl 5-bromo-1-(4-methylbenzyl)-1H-indole-2-Carboxylate (5.8 g, 15.54 mmol), 4-(trifluoromethoxy)phenylboronic acid (8.2 g, 38.85 mmol), potassium carbonate (5.4 g, 38.85 mmol), [1′1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) complex with methylene (1:1) (4.41 g, 5.44 mmol) in dioxane-water (10:1, 154 mL) was stirred at 70° C. for two days. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic extract was washed with water and brine, and then concentrated to an oil. This residue was crystallized from ethyl ether to afford the title compound as an off-white solid, m.p. 77–78° C. Mass spectrum (ESI, [M+H]+) m/z 454. 1H NMR (400 MHz, DMSO-d6) δ 8.00 (s, 1H), 7.78 (d, 2H, J=8.70 Hz), 7.67 (d, 1H, J=8.85 Hz), 7.61 (dd, 1H, J=8.70 and 1.68 Hz), 7.44 (s, 1H), 7.42–7.41 (m, 3H), 7.06 (d, 2H, J=7.94 Hz), 6.94 (d, 2H, J=8.09 Hz), 5.83 (s, 2H), 4.29 (q, 2H), 2.21 (s, 3H), and 1.30 ppm (t, 3H).

reactant | ethyl 5-bromo-1-(4-methylbenzyl)-1H-indole-2-Carboxylate | 15.54 mmol, 5.8 g | BrC=1C=C2C=C(N(C2=CC1)CC1=CC=C(C=C1)C)C(=O)OCC | C19H18BrNO2
reactant | 4-(trifluoromethoxy)phenylboronic acid | 38.85 mmol, 8.2 g | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | potassium carbonate | 38.85 mmol, 5.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane water | 154 mL | O1CCOCC1.O
solvent | water | O | H2O
product | Ethyl 1-(4-methylbenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indole-2-carboxylate | CC1=CC=C(CN2C(=CC3=CC(=CC=C23)C2=CC=C(C=C2)OC(F)(F)F)C(=O)OCC)C=C1 | C26H22F3NO3
